US05612373
A solution of sodium hydroxide (6.4 g) in water (40 ml) was added to a mixture of 3,4-dihydroxybenzoic acid (24.8 g) and DMF (200 ml) which had been cooled in an ice-bath. The mixture was stirred for 20 minutes and then benzyl bromide (19.1 ml) was added dropwise. After the addition was complete, the mixture was allowed to reach ambient temperature and was stirred for 20 hours. The mixture was then warmed to 50° C. for 2 hours. The solvent was removed by evaporation and the residue was partitioned between water (300 ml) and ethyl acetate (100 ml). The ethyl acetate layer was separated and the aqueous layer extracted with ethyl acetate (100 ml). The combined ethyl acetate extracts were washed with water (100 ml), saturated sodium hydrogen carbonate solution (100 ml), water (100 ml) and with saturated sodium chloride solution (100 ml) and dried (MgSO4). The solvent was removed by evaporation to give a brown solid which was crystallised from toluene to give benzyl 3,4-dihydroxybenzoate (19 g) as a solid; m.p. 147°-149° C.

reactant | sodium hydroxide | 6.4 g | [OH-].[Na+]
reactant | 3,4-dihydroxybenzoic acid | 24.8 g | OC=1C=C(C(=O)O)C=CC1O | C7H6O4
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
reactant | benzyl bromide | 19.1 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 40 ml | O | H2O
product | benzyl 3,4-dihydroxybenzoate | 19 g | OC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1O | C14H12O4
